US06413995B1
44 mg of p-anisyl 4-[1-hydroxy-2-(methoxycarbonyl)ethyl]cinnamate was dissolved in 0.1 ml anisole, and then treated with 0.1 ml trifluoroacetic acid on ice for 30 minutes to give 4-[1-hydroxy-2-(methoxycarbonyl)ethyl]cinnamic acid (27 mg, 91%) as a white solid.

reactant | p-anisyl 4-[1-hydroxy-2-(methoxycarbonyl)ethyl]cinnamate | 44 mg | OC(CC(=O)OC)C1=CC=C(C=CC(=O)OCC2=CC=C(C=C2)OC)C=C1 | C21H22O6
reactant | trifluoroacetic acid | 0.1 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | anisole | 0.1 ml | C1(=CC=CC=C1)OC | C7H8O
product | 4-[1-hydroxy-2-(methoxycarbonyl)ethyl]cinnamic acid | 27 mg, 91% | OC(CC(=O)OC)C1=CC=C(C=CC(=O)O)C=C1 | C13H14O5
